US04122263
2-[2'-(2",5"-dichlorobenzylthio)-5'-chlorophenyl]-imidazoline hydrochloride
32 Parts of 4-chlorobenzothietane-2-spiro-2'-imidazolidine is reacted as described in Example 11 with 29.5 parts of 2,5-dichlorobenzyl chloride in 300 parts of methanol. The yield is 53 parts (86% of theory) and the melting point is 260° C. with decomposition.

reactant | 4-chlorobenzothietane-2-spiro-2'-imidazolidine | ClC=1C=CC2=C(C1)C1(NCCN1)S2 | C9H9ClN2S
reactant | 2,5-dichlorobenzyl chloride | ClC1=C(CCl)C=C(C=C1)Cl | C7H5Cl3
solvent | methanol | CO | CH4O
product | 2-[2'-(2",5"-dichlorobenzylthio)-5'-chlorophenyl]-imidazoline hydrochloride | Cl.ClC1=C(CSC2=C(C=C(C=C2)Cl)C=2NCCN2)C=C(C=C1)Cl | InChI=1S/C16H13Cl3N2S.ClH/c17-11-1-3-14(19)10(7-11)9-22-15-4-2-12(18)8-13(15)16-20-5-6-21-16;/h1-4,7-8H,5-6,9H2,(H,20,21);1H
